US05521179
To a suspension of 3-methylisonicotinic acid (0.676 g) in toluene was added thionyl chloride (0.5 mL), and the reaction mixture was heated under reflux 70 min. The resulting solution was decanted from a gummy residue on the bottom of the reaction flask, evaporated and further dried under high vacuum to afford 3-methylisonicotinoyl chloride hydrochloride which was used for the acylation without further purification.

reactant | 3-methylisonicotinic acid | 0.676 g | CC1=C(C(=O)O)C=CN=C1 | C7H7NO2
reactant | thionyl chloride | 0.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methylisonicotinoyl chloride hydrochloride | Cl.CC1=C(C(=O)Cl)C=CN=C1 | InChI=1S/C7H6ClNO.ClH/c1-5-4-9-3-2-6(5)7(8)10;/h2-4H,1H3;1H
